US04843083
Synthesis of iso-amyl-2-(2-pyridyl)acetate
A mixture of 2-pyridylacetic acid hydrochloride 10.00 g (57.60 mmol), iso-amyl alcohol 6.09 g (69.12 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride 14.35 g (74.88 mmol) in 20 ml of pyridine and 80 ml of methylene chloride was stirred at room temperature for 2 hr.

reactant | 2-pyridylacetic acid hydrochloride | 57.60 mmol, 10.00 g | Cl.N1=C(C=CC=C1)CC(=O)O
reactant | iso-amyl alcohol | 69.12 mmol, 6.09 g | C(CC(C)C)O | C5H12O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 74.88 mmol, 14.35 g | Cl.C(C)N=C=NCCCN(C)C
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | iso-amyl-2-(2-pyridyl)acetate | C(CC(C)C)OC(CC1=NC=CC=C1)=O | C12H17NO2
